US06887875B2
POCl3 (500 ml) is added to 2-(2-methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine 1-oxide (97 g, 0.3 mol) at room temperature and the mixture is stirred at 75° C. for 2 hours. The mixture is concentrated under reduced pressure. Aqueous saturated Na2CO3 is added to the residue and the mixture is extracted with EtOAc. The combined extracts are washed with brine and dried over Na2SO4. The solvent is removed under reduced pressure. The residue is purified by flash column chromatography (hexane/EtOAc 10:1) to obtain 2-chloro-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine. Rf (hexane/EtOAc=9:1)=0.35.

reactant | 2-(2-methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine 1-oxide | 0.3 mol, 97 g | COC1=C(C=CC(=C1)OC(F)(F)F)C1=[N+](C=C(C=C1C)[N+](=O)[O-])[O-] | C14H11F3N2O5
reactant | POCl3 | 500 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-(2-methoxy-4-trifluoromethoxy-phenyl)-5-methyl-3-nitro-pyridine | ClC1=NC(=C(C=C1[N+](=O)[O-])C)C1=C(C=C(C=C1)OC(F)(F)F)OC | C14H10ClF3N2O4
